US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one
The title compound, MS: m/e=500.2 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one and methyl iodide.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CNC(N3C3=C(C=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O2
reactant | methyl iodide | CI | CH3I
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CN(C(N3C3=C(C=CC=C3)C)=O)C)CC2)C=C(C1)C(F)(F)F)(F)F | C24H23F6N3O2
